US04039589
A mixture of 21 g. of α-vinyl-benzhydrol and 84 ml. of cyclohexane is refluxed in the presence of palladium catalyst. When the reaction is over, as evidenced by thin layer chromatography, the mixture is cooled, the catalyst is filtered off, and the filtrate is evaporated under reduced pressure. 21.2 g. of crystalline α-ethyl-benzhydrol, melting at 93°-94° C., are obtained as residue.

reactant | α-vinyl-benzhydrol | C(=C)C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C15H14O
catalyst | palladium | [Pd] | Pd
solvent | cyclohexane | C1CCCCC1 | C6H12
product | α-ethyl-benzhydrol | C(C)C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C15H16O
